US20010018525A1
Step 1 3,5-Bis-(4-methoxyphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester
To a stirred solution of 2N K2CO3 (108 mL) was added dioxane (875 mL), 3-bromo-4-(2-hydroxyethoxy)-5-iodobenzoic acid ethyl ester (25.34 g, 61.05 mmol), 4-methoxyphenyl boronic acid (12.43 g, 79.37 mmol), and [1,1′-bis(diphenyl-phosphino)ferrocene] dichloropalladium (II), complex with CH2Cl2 (1.49 g, 1.83 mmol). After stirring at room temperature for 1 h, the mixture was heated at 60° C. for 2.5 h. Progress was monitored by TLC. Additional quantities of catalyst and boronic acid (0.5 g) were added to push the reaction to completion. The reaction was cooled and partitioned between ethyl acetate/0.5 N HCl. The organic phase was washed with 0.5 N HCl, then brine. It was dried (MgSO4), decolorized (charcoal), and concentrated to give a residue which was filtered through a pad of SiO2. Purification by HPLC (ethyl acetate/hexane) afforded 11.47 g (47.5%) of mono-arylated product as a white solid [1H NMR (DMSO-d6) δ8.08 (d, 1H), 7.82 (d, 1H), 7.50 (d, 2H), 7.02 (d, 2H), 4.65 (t, 1H), 4.30 (q, 2H), 3.81 (s, 3H), 3.59-3.42 (m, 4H), 1.29 (t, 3H)]and 6.61 g (25.6%), of bis-arylated product as a brown oil: 1H NMR (DMSO-d6) δ7.82 (s, 2H), 7.52 (d, 4H), 7.00 (d, 4H), 4.30 (q, 2H), 3.80 (s, 6H), 3.25 (m, 2H), 3.12 (m, 2H), 1.31 (t, 3H).

reactant | K2CO3 | 2N, 108 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-4-(2-hydroxyethoxy)-5-iodobenzoic acid ethyl ester | 61.05 mmol, 25.34 g | C(C)OC(C1=CC(=C(C(=C1)I)OCCO)Br)=O | C11H12BrIO4
reactant | 4-methoxyphenyl boronic acid | 79.37 mmol, 12.43 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | CH2Cl2 | 1.83 mmol, 1.49 g | C(Cl)Cl | CH2Cl2
reactant | boronic acid | 0.5 g | B(O)O | BH3O2
catalyst | dichloropalladium (II) | Cl[Pd]Cl
solvent | dioxane | 875 mL | O1CCOCC1 | C4H8O2
product | 3,5-Bis-(4-methoxyphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester | 11.47 g, 47.5% | C(C)OC(C1=CC(=C(C(=C1)C1=CC=C(C=C1)OC)OCCO)C1=CC=C(C=C1)OC)=O | C25H26O6
